US04760074
A mixture of 1.27 parts of 2ethenylpyrazine, 6.48 parts of 1-[(4 fluorophenyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine, 0.3 parts of acetic acid and 40 parts of methanol was stirred and refluxed for 48 hours. The solvent was evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (88:12 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was washed with 2,2'-oxybispropane and crystallized from 27 parts of methylbenzene, yielding 2.4 parts of 1-)4-fluorophenylmethyl)-N-[1-[2-(2-pyrazinyl)ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine; mp. 165.3° C. (compound 101).

reactant | 2ethenylpyrazine | C(=C)C1=NC=CN=C1 | C6H6N2
reactant | 1-[(4 fluorophenyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C19H21FN4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | N-[1-[2-(2-pyrazinyl)ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine | N1=C(C=NC=C1)CCN1CCC(CC1)NC1=NC2=C(N1)C=CC=C2 | C18H22N6
